US06255489B1
N-(2-Tolyl)hydroxylamine
A suspension of 411 g (3 mol) of 2-nitrotoluene and 15 g of platinum on active carbon (F 105 XRS/W 5% from Degussa) in 2.8 l of 4-methylmorpholine was flushed at 0° C. with nitrogen and then with hydrogen. The reaction was carried out at 100 mbar gauge pressure. The reaction was completed after 13 hours. The mixture was flushed with nitrogen and the catalyst was filtered off, after which the solvent was very substantially distilled off at from 45 to 50° C. under reduced pressure. The residue was taken up in 1 l of 1:1 methylene chloride/water and the aqueous phase was acidified with hydrochloric acid and then extracted with methylene chloride. The organic phases were dried and the solvent was distilled off, after which the residue was digested in pentane and the product was filtered off and washed. 305 g of the title compound were obtained as (according to HPLC analysis) 89% strength by weight product.

reactant | 2-nitrotoluene | 3 mol, 411 g | [N+](=O)([O-])C1=C(C=CC=C1)C | C7H7NO2
solvent | 4-methylmorpholine | 2.8 l | CN1CCOCC1 | C5H11NO
catalyst | platinum | 15 g | [Pt] | Pt
product | N-(2-Tolyl)hydroxylamine | 305 g | C1(=C(C=CC=C1)NO)C | C7H9NO
